US05231103
4-(Quinolin-2-yl-methoxy)phenyl cyclohexyl ketone
7.85 g (38.4 mmol) of 4-hydroxyphenyl cyclohexyl ketone are heated under reflux for 2 h after addition of 12 g (86.8 mmol) of potassium carbonate and 200 ml of dimethylformamide. 8.54 g (39.9 mmol) of 2-chloromethylquinoline hydrochloride are then added at room temperature. The reaction mixture is stirred at 100° C. for 7 h and subsequently concentrated in vacuo. The residue is taken up in dichloromethane, and the organic phase is washed with water, dried over sodium sulphate and concentrated in vacuo. A column chromatographic purification on silica gel using dichloromethane/methanol (50:1) follows.

reactant | 4-hydroxyphenyl cyclohexyl ketone | 38.4 mmol, 7.85 g | C1(CCCCC1)C(=O)C1=CC=C(C=C1)O | C13H16O2
reactant | potassium carbonate | 86.8 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloromethylquinoline hydrochloride | 39.9 mmol, 8.54 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(Quinolin-2-yl-methoxy)phenyl cyclohexyl ketone | C1(CCCCC1)C(=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C23H23NO2
